US09422332B2
To a solution of (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid (60 mg, 277 μmol, Eq: 1.2) and DIEA (120 μL, 693 μmol, Eq: 3) in DMF (1 mL) was added HATU (105 mg, 277 μmol, Eq: 1.2) and the resulting solution stirred at RT for 15 min. (S)—N-(2,6-Difluorophenyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide trifluoroacetate (93 mg, 231 μmol, Eq: 1.00) in DMF (1 mL) was then added and stirring was continued at rt. After 1 h, the reaction mixture was diluted with EtOAc and washed with 0.1 M NaOH, 0.1 M HCl, and brine. The organic layer was concentrated in vacuo and the residue azeotroped with n-heptanes to give tert-butyl (S)-1-((S)-3-(2,6-difluorophenylcarbamoyl)-3,4-dihydro isoquinolin-2 (1H)-yl)-3-methyl-1-oxobutan-2-ylcarbamate as a white solid which was used without purification (130 mg), m/z=488 (M+H).

reactant | (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid | 277 μmol, 60 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
reactant | DIEA | 693 μmol, 120 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 277 μmol, 105 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)—N-(2,6-Difluorophenyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide trifluoroacetate | 231 μmol, 93 mg | FC(C(=O)O)(F)F.FC1=C(C(=CC=C1)F)NC(=O)[C@H]1NCC2=CC=CC=C2C1
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (S)-1-((S)-3-(2,6-difluorophenylcarbamoyl)-3,4-dihydro isoquinolin-2 (1H)-yl)-3-methyl-1-oxobutan-2-ylcarbamate | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C([C@H](C(C)C)NC(OC(C)(C)C)=O)=O | C26H31F2N3O4
